US09108973B2
(Step 1) Synthesis of 3-((3,5-dimethoxyphenyl)ethynyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
PdCl2(dppf)CH2Cl2 (163 mg) was added to a mixture of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (520 mg) synthesized by the method disclosed in WO 2007/126841, 1-ethynyl-3,5-dimethoxybenzene (504 mg), copper (I) iodide (57.3 mg), and triethylamine (0.56 ml) in DMF (10 ml). After nitrogen purging, the resulting mixture was stirred at 90° C. for 6 hours. Chloroform and water were added to the reaction mixture to separate the organic layer. After being washed with a saturated sodium chloride solution, the organic layer was dried over anhydrous sodium sulfate, and the solvent was then distilled off under reduced pressure. The resulting residue was purified by basic silica gel column chromatography (developing solvent: chloroform/methanol) to obtain the title compound as a dark-brown solid (120 mg). Physical properties: m/z [M+H]+ 296.0

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 520 mg | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | 1-ethynyl-3,5-dimethoxybenzene | 504 mg | C(#C)C1=CC(=CC(=C1)OC)OC | C10H10O2
reactant | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 57.3 mg | [Cu]I
solvent | water | O | H2O
product | 3-((3,5-dimethoxyphenyl)ethynyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 120 mg | COC=1C=C(C=C(C1)OC)C#CC1=NNC2=NC=NC(=C21)N | C15H13N5O2
